Trabalho 1 
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

*independent sources
 
* supply voltage
Va 1 0 5.00439410964 

*current sources 
Id 7 5 1.04536428769m

*Ground
VGround 0 10 0  

*resistances

R1 1 2 1.03919759193k 
	
R2 3 2 2.06836523173k

R3 4 2 3.03375774261k

R4 0 4 4.12779067183k

R5 5 4 3.11985677803k

R6 0 6 2.04513887844k

R7 8 7 1.04289965713k

*Dependent sources 


*CCVS

*Control current 

VIc 6 8 0 

*Source 
HVc 4 7 VIc 8.23640363075m

*VCCS

GIb 5 3 (2, 4) 7.25705461539m



.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
print HVc
print @R1[i]

echo  "op_TAB"
print all
echo  "op_END"



quit
.endc

.end