Trabalho 2 alinea 2
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents



.INCLUDE ngspice_data_2.txt



*Descrição do circuito
va 0 na 0V ; auxiliar voltage source

vs 1 0 {Vs}

R1 1 2 {R1}
R2 2 3 {R2}
R3 2 5 {R3}
R4 0 5 {R4}
R5 5 6 {R5}
R6 na 7 {R6}
R7 7 8 {R7}

Vx 6 8 {Vx}

Gb 6 3 2 5 {Kb} ; current source
Hd 5 8 va {Kd} ; voltage source


.op

.end

.control


op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
* print HVc
* print @R1[i]

echo  "op2_TAB"
print all
echo  "op2_END"

* do not forget to print v6-v8 to use later

quit
.endc

.end